US07897619B2
(R)-tert-Butyl 2-(4-(trifluoromethyl)benzyl)-5-oxopyrrolidine-1-carboxylate:
(R)-tert-Butyl 3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-1-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate (10.0 g, 22.5 mmol) in 100 mL toluene was heated at 105° C. for 3 hours. Hexane was added, and the mixture was sonicated. The resulting solid was filtered. The desired product was obtained as a white amorphous solid (21.0 g, yield 98%). No further purification was performed and the reaction was carried on to the next step.

reactant | (R)-tert-Butyl 3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-1-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 22.5 mmol, 10.0 g | CC1(OC(C(C(O1)=O)C[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)=O)C | C21H26F3NO6
reactant | Hexane | CCCCCC | C6H14
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-tert-Butyl 2-(4-(trifluoromethyl)benzyl)-5-oxopyrrolidine-1-carboxylate | FC(C1=CC=C(C[C@@H]2N(C(CC2)=O)C(=O)OC(C)(C)C)C=C1)(F)F | C17H20F3NO3
